US07214756B2
The synthesis method is described in detail by, e.g., H. W. Oviatt et al., Chem. Mater., 1993, 5, 943, and 1,14-bis(triethoxysilyl)tetradecane was synthesized following the above method. A mixture of 25 g of 1,13-tetradecadiene (Aldrich), 44.4 g of triethoxysilane (Shin-etsu Silicones) and 0.1 mL of a 3% xylene solution of platinum complex of bis((vinyl dimethyldisiloxane) (Shin-etsu Silicones) was prepared and stirred at room temperature in a nitrogen atmosphere for 3 days. The reaction effluent was purified by distillation, to obtain 1,14-bis(triethoxysilyl)tetradecane. Its structure was confirmed by NMR analysis.

reactant | 1,13-tetradecadiene | 25 g | C=CCCCCCCCCCCC=C | C14H26
reactant | triethoxysilane | 44.4 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | vinyl dimethyldisiloxane | C(=C)[Si](O[SiH3])(C)C | C4H12OSi2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 1,14-bis(triethoxysilyl)tetradecane | C(C)O[Si](CCCCCCCCCCCCCC[Si](OCC)(OCC)OCC)(OCC)OCC | C26H58O6Si2
